US04170462
To 12.5 ml of propargyl alcohol is added 0.1 g of a 50% suspension of sodium hydride in mineral oil. The addition is made under a blanket of nitrogen while the mixture is stirred and the temperature thereof maintained at from 20° C. to 25° C. by means of external cooling. The formation of the sodium salt of propargyl alcohol is complete in about 1 to 2 hours. To this solution is added 5.0 g of 3-isopropyl-3-methyl-5H-imidazo[2,1-a]isoindole-2(3H),5-dione and the mixture stirred at room temperature overnight under a blanket of nitrogen. Thin layer chromatography indicates incomplete reaction and an additional 50 mg of a 50% suspension of sodium hydride in oil is added to the reaction mixture. After stirring overnight, the mixture is cooled to 5° C. and 0.7 ml of 3N hydrochloric acid is added. The mixture is then diluted with methylene chloride, washed with water and the organic phase dried and concentrated in vacuo. The crystalline residue is transferred to a filter funnel with hexane and air dried to give 6.02 g of 2-propynyl o-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)benzoate, melting point 131°-144° C. Material from a similar reaction was recrystallized from acetonehexane to give pure product melting point 145°-147° C.

reactant | propargyl alcohol | 12.5 ml | C(C#C)O | C3H4O
reactant | sodium hydride | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 3-isopropyl-3-methyl-5H-imidazo[2,1-a]isoindole-2(3H),5-dione | 5.0 g | C(C)(C)C1(C(N=C2N1C(C1=CC=CC=C21)=O)=O)C | C14H14N2O2
reactant | hydrochloric acid | 3N, 0.7 ml | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-propynyl o-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)benzoate | 6.02 g | C(C)(C)C1(C(N=C(N1)C1=C(C(=O)OCC#C)C=CC=C1)=O)C | C17H18N2O3
